US06849622B2
A mixture comprising 4-amino-1-(tert-butoxycarbonyl)piperidine (700 mg), benzoic acid (512 mg), 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide (804 mg), 1-hydroxybenzotriazole (567 mg) and N,N-dimethylformamide (10 ml) was stirred at room temperature for 16 hours to undergo reaction, and the resulting compound was acid-treated with hydrochloric acid to obtain 4-(benzoylamino)piperidine.hydrochloride.

reactant | 4-amino-1-(tert-butoxycarbonyl)piperidine | 700 mg | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | benzoic acid | 512 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide | 804 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 567 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-(benzoylamino)piperidine.hydrochloride | Cl.C(C1=CC=CC=C1)(=O)NC1CCNCC1 | InChI=1S/C12H16N2O.ClH/c15-12(10-4-2-1-3-5-10)14-11-6-8-13-9-7-11;/h1-5,11,13H,6-9H2,(H,14,15);1H
